US09120777B2
F) (2-Chloro-6-cyclopropyl-2′,4′-difluoro-3-isopropoxybiphenyl-4-yl)methanol
Diisobutylaluminum hydride (1.5 M toluene solution, 16.3 mL) was added at 0 C to a THF (30 mL) solution of methyl 2-chloro-6-cyclopropyl-2′,4′-difluoro-3-isopropoxybiphenyl-4-carboxylate (3.10 g), and then, the mixture was stirred at 0 C for 20 minutes in a nitrogen atmosphere. Sodium sulfate decahydrate was added to the reaction mixture, and the mixture was stirred for 1 hour. After filtration, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (2.18 g).

reactant | Diisobutylaluminum hydride | 1.5 M, 16.3 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 2-chloro-6-cyclopropyl-2′,4′-difluoro-3-isopropoxybiphenyl-4-carboxylate | 3.10 g | ClC1=C(C(=CC(=C1OC(C)C)C(=O)OC)C1CC1)C1=C(C=C(C=C1)F)F | C20H19ClF2O3
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2-Chloro-6-cyclopropyl-2′,4′-difluoro-3-isopropoxybiphenyl-4-yl)methanol | 2.18 g | ClC1=C(C(=CC(=C1OC(C)C)CO)C1CC1)C1=C(C=C(C=C1)F)F | C19H19ClF2O2
